US04548932
A solution of 3(S)-[9-amino-1(S)-ethoxycarbonylnonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride (0.2 g) in 1N sodium hydroxide solution (6 ml) is allowed to stand for 30 minutes at room temperature. Acetic acid (1.5 ml) is added and the resulting mixture is subjected to Amberlite XAD-2 column chromatography using methanol-water (1:2) as an eluent. The eluate is concentrated in vacuo and lyophilized to yield 3(S)-[9-amino-1(S)-carboxynonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid (0.15 g) as colorless powder.

reactant | 3(S)-[9-amino-1(S)-ethoxycarbonylnonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid dihydrochloride | 0.2 g | Cl.Cl.NCCCCCCCC[C@@H](C(=O)OCC)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2
reactant | Acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 1N, 6 ml | [OH-].[Na+]
solvent | methanol water | CO.O
product | 3(S)-[9-amino-1(S)-carboxynonyl]amino-4-oxo-2,3,4,5-tetrahydro-1,5-benzoxazepine-5-acetic acid | 0.15 g | NCCCCCCCC[C@@H](C(=O)O)N[C@H]1COC2=C(N(C1=O)CC(=O)O)C=CC=C2 | C21H31N3O6
